US05101068
To a solution of Boc-LeuCH2F (1.53 g, 6.19 mmol) in ether (30 mL) was added a saturated solution of HCl in ether (20 mL). The mixture was stirred vigorously; a precipitate formed within 15 minutes. After 1 hour, the mixture was filtered, the solids were washed with ether (2×30 mL) and were then pumped dry overnight; a second crop was obtained from the filtrate, giving 0.60 g (54%) of LeuCH2F hydrochloride. Boc-Phe-Gly-LeuOH (synthesized in several steps via mixed anhydride coupling of the appropriate amino acid benzyl esters and subsequent hydrogenolyses, 0.762 g, 1.69 mmol) was dissolved in THF (10 mL), and was cooled to -20° C. NMM (0.186 mL, 1.69 mmol) was added, followed by IBCF (0.219 mL, 1.69 mmol). After 5 minutes, HCl.LeuCH2F (0.31 g, 1.69 mmol) was dissolved in DMF (2 mL), to which solution was added NMM (0.186 mL, 1.69 mmol). This mixture was swirled for approximately 15 seconds and was added to the mixed anhydride solution. After 45 minutes, the reaction was quenched with 1M HCl (20 mL), extracted with ethyl acetate (2×30 mL), the combined organics were washed with saturated aqueous NaHCO3 (30 mL), brine (20 mL), dried over MgSO4, filtered, and evaporated. The thick oil was then dissolved in 1:1 ether/CH2Cl2 (20 mL), and hexane (50 mL) was added. After one day, the supernatant was decanted from the impure product and was evaporated to dryness, yielding 0.14 g of Boc-Phe-Gly-Leu-LeuCH2F.

reactant | Boc-LeuCH2F | 6.19 mmol, 1.53 g | N([C@@H](CC(C)C)C(=O)CF)C(=O)OC(C)(C)C | C12H22FNO3
reactant | HCl | Cl | ClH
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
product | LeuCH2F hydrochloride | 0.60 g, 54% | N[C@@H](CC(C)C)C(=O)CF.Cl | InChI=1S/C7H14FNO.ClH/c1-5(2)3-6(9)7(10)4-8;/h5-6H,3-4,9H2,1-2H3;1H/t6-;/m0./s1
